US07601711B2
5-(3-Dimethylamino-piperidine-1-carbonyl)-1-isopropyl-1H-indole-2-carboxylic acid ethyl ester
To a solution of ethyl 5-(3-dimethylamino-piperidine-1-carbonyl)-1H-indole-2-carboxylate (1.51 g, 4 mmol) in acetonitrile (30 ml) were added isopropylmethane-sulfonate (1.8 eq, 1.1 g) and caesium carbonate (1.8 eq, 2.6 g). The mixture was heated overnight at reflux. The solvent was evaporated under reduced pressure and the residue partitioned between water and tert-butylmethyl ether. The phases were separated, the aqueous phase extracted with tert-butylmethyl ether and the combined organic phases washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (4:1 chloroform/methanol eluant) to afford the product as a light-brown gum. (31%)

reactant | ethyl 5-(3-dimethylamino-piperidine-1-carbonyl)-1H-indole-2-carboxylate | 4 mmol, 1.51 g | CN(C1CN(CCC1)C(=O)C=1C=C2C=C(NC2=CC1)C(=O)OCC)C | C19H25N3O3
reactant | isopropylmethane-sulfonate | 1.1 g, 1.8 eq | C(C)(C)CS(=O)(=O)[O-]
reactant | caesium carbonate | 2.6 g, 1.8 eq | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 5-(3-Dimethylamino-piperidine-1-carbonyl)-1-isopropyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)C(=O)N1CC(CCC1)N(C)C)C(C)C | C22H31N3O3
